US05008263
8,9-Dichloro-1-methyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-4H-imidazo[1,2-a][1,5]benzodiazepine
A mixture of 7,8-dichloro-2,3-dihydro-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione (452 mg, 1.0 mmol), propargylamine (110 mg, 2.0 mmol) and red mercuric oxide (216 mg, 1.0 mmol) in n-butanol (5 ml) was heated at reflux for 10 hours. The mixture was cooled, diluted with methanol (50 ml) and filtered through Arbocel filter aid. The filtrate was concentrated under reduced pressure, and purified by flash chromatography (eluting with ethyl acetate:methanol=3:1). The product was further purified by trituration with ether to give the title compound as a buff solid, (170 mg, 38%), m.p. 243°-246° C.

reactant | 7,8-dichloro-2,3-dihydro-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-thione | 1.0 mmol, 452 mg | ClC1=CC2=C(NC(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)=S)C=C1Cl | C22H15Cl2N5S
reactant | propargylamine | 2.0 mmol, 110 mg | C(C#C)N | C3H5N
solvent | n-butanol | 5 ml | C(CCC)O | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | 8,9-Dichloro-1-methyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-4H-imidazo[1,2-a][1,5]benzodiazepine | ClC=1C(=CC2=C(N=C(CC=3N2C(=CN3)C)C3=CC=C(C=C3)N3C(=NC=2C=NC=CC23)C)C1)Cl | C25H18Cl2N6
